US07531545B2
4-(2-Amino-6-phenoxy-4H-quinazolin-3-yl)-N-(1-(S)-tert-butoxymethyl-2-hydroxy-ethyl)-4-(S)-cyclohexyl-butyramide (Compound 107)
To a solution of 2-[4-(2-amino-6-phenoxy-4H-quinazolin-3-yl)-4-cyclohexyl-butyrylamino]-3-tert-butoxy-propionic acid methyl ester (TFA salt, 50 mg) in methanol (5 mL), NaBH4 (0.04 g) was added slowly over a 30 minute period. The resulting solution was then stirred at room temperature overnight. LC/MS indicated very little product formed and most of the starting material remained. Additional NaBH4 (0.04 g) was added at room temperature, and the solution was stirred for an additional 8 hrs. Additional NaBH4 (0.08 g) was added over a 4 day period. LC/MS then indicated that most of the starting material was converted. The crude reaction mixture was purified by Gilson HPLC to yield the title compound as a white solid.

reactant | 2-[4-(2-amino-6-phenoxy-4H-quinazolin-3-yl)-4-cyclohexyl-butyrylamino]-3-tert-butoxy-propionic acid methyl ester | 50 mg | COC(C(COC(C)(C)C)NC(CCC(C1CCCCC1)N1C(=NC2=CC=C(C=C2C1)OC1=CC=CC=C1)N)=O)=O | C32H44N4O5
reactant | NaBH4 | 0.04 g | [BH4-].[Na+]
reactant | NaBH4 | 0.04 g | [BH4-].[Na+]
reactant | NaBH4 | 0.08 g | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 4-(2-Amino-6-phenoxy-4H-quinazolin-3-yl)-N-(1-(S)-tert-butoxymethyl-2-hydroxy-ethyl)-4-(S)-cyclohexyl-butyramide | NC1=NC2=CC=C(C=C2CN1[C@@H](CCC(=O)N[C@@H](CO)COC(C)(C)C)C1CCCCC1)OC1=CC=CC=C1 | C31H44N4O4
